US07851471B2
To a solution of phenylpiperazine (12.0 g, 74.0 mmol) and DIPEA (13.5 mL, 81.6 mmol) in DCM (70 mL) at 0° C. add 4-nitrophenyl chloroformate (16.5 g, 81.71 mmol). The reaction mixture was stirred for 30 minutes at 0° C. and then washed with saturated sodium hydrogen carbonate solution (3×200 mL), dried (MgSO4) and concentrated in vacuo to give a 4-nitrophenyl 4-phenylpiperazine-1-carboxylate (24.8 g, 102%) as a yellow solid which was used without further purification.

reactant | phenylpiperazine | 74.0 mmol, 12.0 g | C=1C=CC(=CC1)N2CCNCC2 | C10H14N2
reactant | DIPEA | 81.6 mmol, 13.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl chloroformate | 81.71 mmol, 16.5 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl 4-phenylpiperazine-1-carboxylate | 24.8 g, 102% | C1(=CC=CC=C1)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H17N3O4
